US07494993B2
Biphenyl-4-carboxylic acid[4-chloro-3-(7-methanesulfonyl-1-methyl-2-oxo-1,4-dihydro-2H-pyrimido[4,5-d]pyrimidin-3-yl)-phenyl]-amide
0.2 g 3-(5-Amino-2-chloro-phenyl)-7-methanesulfonyl-1-methyl-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidin-2-one were dissolved in 50 mL of dichloromethane. 0.137 g Biphenyl-4-carboxylic acid and 0.042 g 4-dimethylaminopyridine (DMAP) were added. The solution was cooled to 0° C. and 0.128 g N-(3-dimethylaminopropyl)-N-ethylcarbodiimide hydrochloride (EDCI), dissolved in 20 mL dichloromethane were slowly added. The reaction mixture was stirred for 24 h under nitrogen. The reaction was quenched by extraction with 100 mL of an aqueous solution of potassium carbonate. The phases were separated, the aqueous phase was extracted with dichloromethane, and the combined organic phases were dried over sodium sulfate and evaporated. The crude product was purified by flash chromatography on silica gel (n-heptane/ethyl acetate (EtOAc)) to give the title product in 28% yield.

reactant | 3-(5-Amino-2-chloro-phenyl)-7-methanesulfonyl-1-methyl-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidin-2-one | 0.2 g | NC=1C=CC(=C(C1)N1C(N(C2=NC(=NC=C2C1)S(=O)(=O)C)C)=O)Cl | C14H14ClN5O3S
reactant | Biphenyl-4-carboxylic acid | 0.137 g | C1(=CC=C(C=C1)C(=O)O)C1=CC=CC=C1 | C13H10O2
reactant | N-(3-dimethylaminopropyl)-N-ethylcarbodiimide hydrochloride | 0.128 g | CCN=C=NCCCN(C)C.Cl
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.042 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | Biphenyl-4-carboxylic acid[4-chloro-3-(7-methanesulfonyl-1-methyl-2-oxo-1,4-dihydro-2H-pyrimido[4,5-d]pyrimidin-3-yl)-phenyl]-amide | 28% yield | ClC1=C(C=C(C=C1)NC(=O)C1=CC=C(C=C1)C1=CC=CC=C1)N1C(N(C2=NC(=NC=C2C1)S(=O)(=O)C)C)=O | C27H22ClN5O4S
